US03948939
Benzoyloxymethyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate
Following the procedure similar to that of Example 45 but using 12.8 g. of 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid, 20 g. of potassium bicarbonate, 10 ml. of chloromethyl benzoate in 50 ml. of dry dimethylformamide there was obtained, after filtration of the ether extract through silica gel followed by combination of those fractions showing only one identical spot on thin layer chromotography and evaporation to dryness under reduced pressure, 14 g. of the title compound; m.p. 84°-86°C. (methyl alcohol).

reactant | 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C20H17NO3
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | chloromethyl benzoate | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Benzoyloxymethyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)OCOC(C1=CC=CC=C1)=O | C28H23NO5
